US07812040B2
cis-3-(Morpholin-4-ylmethyl)cyclobutyl Methanesulfonate.
MsCl (0.27 mL, 3.5 mmol) was added dropwise to a solution of intermediate 40, cis-3-(Morpholin-4-ylmethyl)cyclobutanol (0.5 g, 2.9 mmol) and triethylamine (1 mL, 7.0 mmol) in CH2Cl2 (5 mL) in argon under stirring on an ice bath. The mixture was brought to room temperature for 1 h, water (10 mL) was added, and the layers were separated. The organic layer was washed with water. The water layer was washed with the saturated NaCl solution, dried over Na2SO4, and evaporated to give the title compound as a yellow oil in 99% (718 mg, 2.88 mmol) yield. This material was used without additional purification. 1H-NMR (400 MHz)-data (dmso-d6): 4.83 (dddd, 1H, J=7.5 Hz, CHOMs), 3.51-3.58 (m, 4H, CH2OCH2), 3.12 (s, 1H, Ms), 2.46-2.55 (m, 2H, cyclobutylCHH), 2.28-2.40 (m, 6H, (CH2)3N), 2.00-2.12 (m, 1H, CHCH2N), 1.80-1.89 (m, 2H, cyclobutylCHH).

reactant | MsCl | 3.5 mmol, 0.27 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | cis-3-(Morpholin-4-ylmethyl)cyclobutanol | 2.9 mmol, 0.5 g | N1(CCOCC1)C[C@H]1C[C@H](C1)O | C9H17NO2
reactant | triethylamine | 7.0 mmol, 1 mL | C(C)N(CC)CC | C6H15N
reactant | water | 10 mL | O | H2O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | cis-3-(Morpholin-4-ylmethyl)cyclobutyl Methanesulfonate | CS(=O)(=O)O[C@@H]1C[C@@H](C1)CN1CCOCC1 | C10H19NO4S
